US09303045B2
Step 2: 1-(pyrimidin-5-yl)-1H-indole-3-carboxylic acid
To a solution of methyl 1-(pyrimidin-5-yl)-1H-indole-3-carboxylate (16 mg, 0.063 mmol) in water MeOH (316 μl) was added 2M KOH (158 μl, 0.316 mmol). The mixture was heated at 80° C. for 4 h then neutralized with 1M HCl. The precipitate was collected by filtration to afford the title compound as a white solid, which was used without further purification.

reactant | methyl 1-(pyrimidin-5-yl)-1H-indole-3-carboxylate | 0.063 mmol, 16 mg | N1=CN=CC(=C1)N1C=C(C2=CC=CC=C12)C(=O)OC | C14H11N3O2
reactant | KOH | 0.316 mmol, 2M, 158 μl | [OH-].[K+]
reactant | HCl | 1M | Cl | ClH
solvent | water MeOH | 316 μl | O.CO
product | 1-(pyrimidin-5-yl)-1H-indole-3-carboxylic acid | N1=CN=CC(=C1)N1C=C(C2=CC=CC=C12)C(=O)O | C13H9N3O2
